### PR TITLE
[Merged by Bors] - feat: applying a smooth hom bundle section to a smooth section gives a smooth section

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/VectorBundle/Hom.lean [hunk 1]
```diff
@@ -65,7 +67,14 @@ theorem hom_chart (y₀ y : LE₁E₂) :
     Trivialization.coe_coe, PartialHomeomorph.refl_apply, Function.id_def,
     hom_trivializationAt_apply]
 
-theorem contMDiffAt_hom_bundle (f : M → LE₁E₂) {x₀ : M} {n : ℕ∞} :
+theorem contMDiffWithinAt_hom_bundle (f : M → LE₁E₂) {s : Set M} {x₀ : M} :
+    ContMDiffWithinAt IM (IB.prod 𝓘(𝕜, F₁ →L[𝕜] F₂)) n f s x₀ ↔
+      ContMDiffWithinAt IM IB n (fun x => (f x).1) s x₀ ∧
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Hom.lean]:
```suggestion
      ContMDiffWithinAt IM IB n (fun x ↦ (f x).1) s x₀ ∧
```

File: Mathlib/Geometry/Manifold/VectorBundle/Hom.lean [hunk 2]
```diff
@@ -65,7 +67,14 @@ theorem hom_chart (y₀ y : LE₁E₂) :
...
+        ContMDiffWithinAt IM 𝓘(𝕜, F₁ →L[𝕜] F₂) n
+          (fun x => inCoordinates F₁ E₁ F₂ E₂ (f x₀).1 (f x).1 (f x₀).1 (f x).1 (f x).2) s x₀ :=
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Hom.lean]:
```suggestion
          (fun x ↦ inCoordinates F₁ E₁ F₂ E₂ (f x₀).1 (f x).1 (f x₀).1 (f x).1 (f x).2) s x₀ :=
```

File: Mathlib/Geometry/Manifold/VectorBundle/Hom.lean [hunk 3]
```diff
@@ -183,3 +198,142 @@ lemma ContMDiffAt.clm_apply_of_inCoordinates
...
+One can apply `ϕ m` to `v m`, and the resulting map is `C^n`. -/
+lemma ContMDiffWithinAt.clm_bundle_apply
+    (hϕ : ContMDiffWithinAt IM (IB.prod 𝓘(𝕜, F₁ →L[𝕜] F₂)) n
+      (fun m ↦ TotalSpace.mk' (F₁ →L[𝕜] F₂) (E := fun (x : B) ↦ (E₁ x →L[𝕜] E₂ x)) (b m) (ϕ m))
+      s x)
+    (hv : ContMDiffWithinAt IM (IB.prod 𝓘(𝕜, F₁)) n (fun m ↦ TotalSpace.mk' F₁ (b m) (v m)) s x) :
+    ContMDiffWithinAt IM (IB.prod 𝓘(𝕜, F₂)) n
+      (fun m ↦ TotalSpace.mk' F₂ (b m) (ϕ m (v m))) s x := by
+  simp only [contMDiffWithinAt_hom_bundle] at hϕ
+  exact ContMDiffWithinAt.clm_apply_of_inCoordinates hϕ.2 hv hϕ.1
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Hom.lean]:
```suggestion
  exact hϕ.2.clm_apply_of_inCoordinates hv hϕ.1
```

File: Mathlib/Geometry/Manifold/VectorBundle/Hom.lean [hunk 4]
```diff
@@ -183,3 +198,142 @@ lemma ContMDiffAt.clm_apply_of_inCoordinates
...
+
+/-- Consider a `C^n` map `v : M → E₁` to a vector bundle, over a base map `b : M → B`, and
+linear maps `ϕ m : E₁ (b m) → E₂ (b m)` depending smoothly on `m`.
+One can apply `ϕ m` to `v m`, and the resulting map is `C^n`. -/
+lemma ContMDiffOn.clm_bundle_apply
+    (hϕ : ContMDiffOn IM (IB.prod 𝓘(𝕜, F₁ →L[𝕜] F₂)) n
+      (fun m ↦ TotalSpace.mk' (F₁ →L[𝕜] F₂) (E := fun (x : B) ↦ (E₁ x →L[𝕜] E₂ x)) (b m) (ϕ m)) s)
+    (hv : ContMDiffOn IM (IB.prod 𝓘(𝕜, F₁)) n (fun m ↦ TotalSpace.mk' F₁ (b m) (v m)) s) :
+    ContMDiffOn IM (IB.prod 𝓘(𝕜, F₂)) n (fun m ↦ TotalSpace.mk' F₂ (b m) (ϕ m (v m))) s :=
+  fun x hx ↦ ContMDiffWithinAt.clm_bundle_apply (hϕ x hx) (hv x hx)
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Hom.lean]:
```suggestion
  fun x hx ↦ (hϕ x hx).clm_bundle_apply (hv x hx)
```

File: Mathlib/Geometry/Manifold/VectorBundle/Hom.lean [hunk 5]
```diff
@@ -183,3 +198,142 @@ lemma ContMDiffAt.clm_apply_of_inCoordinates
...
+
+/-- Consider a `C^n` map `v : M → E₁` to a vector bundle, over a base map `b : M → B`, and
+linear maps `ϕ m : E₁ (b m) → E₂ (b m)` depending smoothly on `m`.
+One can apply `ϕ m` to `v m`, and the resulting map is `C^n`. -/
+lemma ContMDiff.clm_bundle_apply
+    (hϕ : ContMDiff IM (IB.prod 𝓘(𝕜, F₁ →L[𝕜] F₂)) n
+      (fun m ↦ TotalSpace.mk' (F₁ →L[𝕜] F₂) (E := fun (x : B) ↦ (E₁ x →L[𝕜] E₂ x)) (b m) (ϕ m)))
+    (hv : ContMDiff IM (IB.prod 𝓘(𝕜, F₁)) n (fun m ↦ TotalSpace.mk' F₁ (b m) (v m))) :
+    ContMDiff IM (IB.prod 𝓘(𝕜, F₂)) n (fun m ↦ TotalSpace.mk' F₂ (b m) (ϕ m (v m))) :=
+  fun x ↦ ContMDiffAt.clm_bundle_apply (hϕ x) (hv x)
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Hom.lean]:
```suggestion
  fun x ↦ (hϕ x).clm_bundle_apply (hv x)
```

File: Mathlib/Geometry/Manifold/VectorBundle/Hom.lean [hunk 6]
```diff
@@ -183,3 +198,142 @@ lemma ContMDiffAt.clm_apply_of_inCoordinates
...
+lemma ContMDiffWithinAt.clm_bundle_apply₂
+    (hψ : ContMDiffWithinAt IM (IB.prod 𝓘(𝕜, F₁ →L[𝕜] F₂ →L[𝕜] F₃)) n
+      (fun m ↦ TotalSpace.mk' (F₁ →L[𝕜] F₂ →L[𝕜] F₃)
+      (E := fun (x : B) ↦ (E₁ x →L[𝕜] E₂ x →L[𝕜] E₃ x)) (b m) (ψ m)) s x)
+    (hv : ContMDiffWithinAt IM (IB.prod 𝓘(𝕜, F₁)) n (fun m ↦ TotalSpace.mk' F₁ (b m) (v m)) s x)
+    (hw : ContMDiffWithinAt IM (IB.prod 𝓘(𝕜, F₂)) n (fun m ↦ TotalSpace.mk' F₂ (b m) (w m)) s x) :
+    ContMDiffWithinAt IM (IB.prod 𝓘(𝕜, F₃)) n
+      (fun m ↦ TotalSpace.mk' F₃ (b m) (ψ m (v m) (w m))) s x := by
+  have := ContMDiffWithinAt.clm_bundle_apply (E₂ := fun x ↦ (E₂ x →L[𝕜] E₃ x)) hψ hv
+  exact ContMDiffWithinAt.clm_bundle_apply this hw
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Hom.lean]:
```suggestion
      (fun m ↦ TotalSpace.mk' F₃ (b m) (ψ m (v m) (w m))) s x :=
  hψ.clm_bundle_apply hv |>.clm_bundle_apply hw
```

File: Mathlib/Geometry/Manifold/VectorBundle/Hom.lean [hunk 7]
```diff
@@ -183,3 +198,142 @@ lemma ContMDiffAt.clm_apply_of_inCoordinates
...
+One can apply `ψ  m` to `v m` and `w m`, and the resulting map is `C^n`. -/
+lemma ContMDiffOn.clm_bundle_apply₂
+    (hψ : ContMDiffOn IM (IB.prod 𝓘(𝕜, F₁ →L[𝕜] F₂ →L[𝕜] F₃)) n
+      (fun m ↦ TotalSpace.mk' (F₁ →L[𝕜] F₂ →L[𝕜] F₃)
+      (E := fun (x : B) ↦ (E₁ x →L[𝕜] E₂ x →L[𝕜] E₃ x)) (b m) (ψ m)) s)
+    (hv : ContMDiffOn IM (IB.prod 𝓘(𝕜, F₁)) n (fun m ↦ TotalSpace.mk' F₁ (b m) (v m)) s)
+    (hw : ContMDiffOn IM (IB.prod 𝓘(𝕜, F₂)) n (fun m ↦ TotalSpace.mk' F₂ (b m) (w m)) s) :
+    ContMDiffOn IM (IB.prod 𝓘(𝕜, F₃)) n
+      (fun m ↦ TotalSpace.mk' F₃ (b m) (ψ m (v m) (w m))) s :=
+  fun x hx ↦ ContMDiffWithinAt.clm_bundle_apply₂ (hψ x hx) (hv x hx) (hw x hx)
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Hom.lean]:
```suggestion
  fun x hx ↦ (hψ x hx).clm_bundle_apply₂ (hv x hx) (hw x hx)
```

**Review by PatrickMassot — COMMENTED** [review]
Could you please have different docstrings for the different variations? You could either describe the assumptions (e.g. `smooth at some point `x` within some set `s`) or write something like “`ContMDiffWithinAt` version”.

bors d+

**Comment by sgouezel** [comment]
bors r+
Thanks for the review!
